US05498630
2-Chloro-N-ethyl-4-formyl-6-(trimethylsilyl)benzamide
A solution of N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)-2-chloro-4-bromo-6-(trimethylsilyl)benzamide (820 mg, 1.89 mmol) in THF (2 mL) was added dropwise to a dry-ice/acetone cooled solution of 2.5M n-BuLi in hexanes (1 mL, 2.5 mmol) in THF (2 mL). The resulting red solution was stirred at -78° C. for 15 min, then DMF (500 mL, 6.5 mmol) was added in a single portion. After 5 min, the reaction was poured into sat aq NaHCO3 and extracted with ether (2×). The combined organic extracts were dried (MgSO4) and concentrated, then a solution of this protected amide in acetone (5 mL) was charged with 6N HCl and stirred overnight at RT. The resulting mixture was poured into sat aq NaHCO3 and extracted with ether (2×), then the combined organic extracts were dried (MgSO4), concentrated, and purified by RC with 3:7 EtOAc/hexanes to give 220 mg of the title compound as a white solid, a 40% yield. m.p. 95°-97° C.

reactant | N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)-2-chloro-4-bromo-6-(trimethylsilyl)benzamide | 1.89 mmol, 820 mg | C(C)N(C(C1=C(C=C(C=C1[Si](C)(C)C)Br)Cl)=O)C(C(C)(C)C)OC | C18H29BrClNO2Si
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | DMF | 6.5 mmol, 500 mL | CN(C)C=O | C3H7NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Chloro-N-ethyl-4-formyl-6-(trimethylsilyl)benzamide | 220 mg, 40% yield | ClC1=C(C(=O)NCC)C(=CC(=C1)C=O)[Si](C)(C)C | C13H18ClNO2Si
